US03931232
A solution of 26.2 g. of 5-(1,2-dimethylheptyl)resorcinol and 16.5 g. of 2-acetylcyclohexanone in 150 ml. of acetic acid is cooled to 15° and saturated with hydrogen chloride gas. The mixture is allowed to warm to 25°, stirred for 48 hours and then quenched by pouring into 500 ml. of methanol at 0° and adding 40 g. of sodium bicarbonate to the methanol solution. Sodium cyanoborohydride is then added to the reaction mixture until the bright orange color is dissipated. The solution is concentrated in vacuo, water is added to the residue and the aqueous mixture is extracted with ether. The extract is washed with water and 5% aqueous sodium bicarbonate, dried (MgSO4) and concentrated to give a residue which is chromatographed on silica. The less polar fraction is collected and dissolved in 150 ml. of pyridine. Acetic anhydride (64 g.) is added and the solution is refluxed 10 minutes then allowed to stir at 25° for 18 hours. The mixture is concentrated in vacuo, the residue is dissolved in hexane and the hexane solution is washed with water, dilute hydrochloric acid and water, dried (Na2SO4) and concentrated to give a residue which is chromatographed on silica with 1:1 methylene chloride-petroleum ether to give 1-acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-9-methylxanthene.

reactant | 5-(1,2-dimethylheptyl)resorcinol | CC(C(CCCCC)C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | 2-acetylcyclohexanone | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | hydrogen chloride | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-9-methylxanthene | C(C)(=O)OC1=CC(=CC=2OC=3CCCCC3C(C12)C)C(C(CCCCC)C)C | C25H36O3
